US04827004
A solution of 3.5 g (0.0148 mol) of (6E,10Z)-12-hydroxy-2,6,10-trimethyl-1,6,10-dodecatrien-3-one in 110 ml of methanol is treated with 7.15 g of N-(2-acetylthioethyl)acetamide and 6.2 ml of triethylamine. The solution is stirred under argon at room temperature for 24 hours. The solvents are removed on a rotary evaporator. The residue is taken up three times with toluene and freed from solvent on a rotary evaporator. The crude product can be used directly for the acetylation described in Example 12 or can be chromatographed on silica gel with ether-methanol 15:1. After chromatographic purification there is obtained (2Z,6E)-12-[(2-acetamidoethyl)thio]-3,7,11-trimethyl-10-oxo-2,6-dodecadien-1-ol which exhibits the following bands in the IR spectrum: 1737 cm-1, 1715 cm-1, 1437 cm-1, 1366 cm-1, 1277 cm-1,1235 cm-1, 1157 cm-1, 1136 cm-1, 1022 cm-1.

reactant | (6E,10Z)-12-hydroxy-2,6,10-trimethyl-1,6,10-dodecatrien-3-one | 0.0148 mol, 3.5 g | OC\C=C(/CC/C=C(/CCC(C(=C)C)=O)\C)\C | C15H24O2
reactant | N-(2-acetylthioethyl)acetamide | 7.15 g | C(C)(=O)SCCNC(C)=O | C6H11NO2S
reactant | triethylamine | 6.2 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 110 ml | CO | CH4O
product | (2Z,6E)-12-[(2-acetamidoethyl)thio]-3,7,11-trimethyl-10-oxo-2,6-dodecadien-1-ol | C(C)(=O)NCCSCC(C(CC/C(=C/CC\C(=C/CO)\C)/C)=O)C | C19H33NO3S
